US07435735B2
Step 1: 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-N-methylamino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione
A cold (0° C.) solution of 2-(3-chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-amino)8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione (0.54 g, 1.07 mmol) in anhydrous DMF (6 mL) was treated with sodium hydride (38 mg, 1.60 mmol). The resultant mixture was stirred at the same temperature for 30 minutes, and treated with iodomethane (0.23 g, 1.60 mmol). After stirring at 0° C. for 1 hour, the product mixture was concentrated under vacuum. The residue was partitioned between chloroform and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum to provide the titled compound.

reactant | 2-(3-chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-amino)8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | 1.07 mmol, 0.54 g | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)NC(=O)OC(C)(C)C)OC)=O)C=CC1F | C24H26ClFN4O5
reactant | sodium hydride | 1.60 mmol, 38 mg | [H-].[Na+]
reactant | iodomethane | 1.60 mmol, 0.23 g | IC | CH3I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 2-(3-Chloro-4-fluorobenzyl)-10-methoxy-4-(N-tert-butoxylcarbonyl-N-methylamino)-8-methyl-7,8-dihydropyrido-[3′,4′:4,5]pyrrolo[1,2-a]pyrazine-1,9(2H,6H)-dione | ClC=1C=C(CN2C(C=3C(=C4N(CCN(C4=O)C)C3C(=C2)N(C)C(=O)OC(C)(C)C)OC)=O)C=CC1F | C25H28ClFN4O5
